US05571912
PREPARATION OF 11-CYCLOPROPYL-5,11-DIHYDRO-4-METHYL-6H-DIPYRIDO[3,2-b:2',3'-e][1,4]DIAZEPIN-6-ONE
To a solution of 90.0 g (0.508 mole) of 2,5-dichloro-4-methyl-3-aminopyridine in 225ml of cyclohexane, 220ml of pyridine, and 50ml of 1,4-dioxane was added in portions over 15 minutes a solution of 100.7g (0.571 mole) of 2-chloronicotinic acid chloride in 200 ml of 1,4-dioxane. At the end of the addition, the reaction temperature reached 50° C. The mixture was stirred at room temperature for 2 days. The wet filter cake was heated at mild reflux overnight in 1l of water containing 25ml of 1N NaOH solution. (The crude product contained 8%-10% of the di-adduct, which is readily hydrolyzed in dilute sodium hydroxide solution to the required product.) The product was collected by filtration and was washed with cold water. The pure product was dried at 60° C. under vacuum to yield 60g (37.3%) (mp:168° C.-171° C.) of 2,6-dichloro-3-(2'-chloro-3'-nicotinyl) carboxamido-4-methylpyridine.

reactant | 2,5-dichloro-4-methyl-3-aminopyridine | 0.508 mole, 90.0 g | ClC1=NC=C(C(=C1N)C)Cl | C6H6Cl2N2
reactant | 2-chloronicotinic acid chloride | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | water | 25ml | O | H2O
reactant | pyridine | 220ml | N1=CC=CC=C1 | C5H5N
solvent | cyclohexane | 225ml | C1CCCCC1 | C6H12
solvent | 1,4-dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | sodium hydroxide | [OH-].[Na+]
solvent | NaOH | 1N | [OH-].[Na+]
solvent | 1,4-dioxane | 50ml | O1CCOCC1 | C4H8O2
product | 11-CYCLOPROPYL-5,11-DIHYDRO-4-METHYL-6H-DIPYRIDO[3,2-b:2',3'-e][1,4]DIAZEPIN-6-ONE | C1(CC1)N1C2=C(NC(C3=C1N=CC=C3)=O)C(=CC=N2)C | C15H14N4O
